US03937710
This example illustrates the preparation of benzylcyclooctanones wherein the aromatic ring is substituted with an amino group. 2-Benzylcyclooctanone is allowed to react with equimolar amounts of p-nitrobenzaldehyde in refluxing methanolic potassium hydroxide for 3 hours. The 2-benzyl-8-(p-nitrobenzylidene)cyclooctanone which forms is removed by filtration and subjected to hydrogenation at 50 p.s.i.g. in the presence of 10 percent palladium on carbon using a solvent system comprising equal portions of ethyl acetate and acetic acid. The 2-benzyl-8-(p-aminobenzyl)cyclooctanone which is obtained from the hydrogenation is purified by converting it to the hydrochloride salt by means of hydrogen chloride introduced into an ethereal solution of the crude product. The melting point of the crude 2-benzyl8-(p-aminobenzyl)cyclooctanone hydrochloride is 175°-195° C.

reactant | 2-Benzylcyclooctanone | C(C1=CC=CC=C1)C1C(CCCCCC1)=O | C15H20O
reactant | p-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | potassium hydroxide | [OH-].[K+]
product | 2-benzyl-8-(p-aminobenzyl)cyclooctanone | C(C1=CC=CC=C1)C1C(C(CCCCC1)CC1=CC=C(C=C1)N)=O | C22H27NO
